US06963012B2
4-(3-benzyloxyphenoxy)-2-chlorobenzaldehyde
Potassium carbonate (5.53 g) was added to a DMF solution (70 ml) of 2-chloro-4-fluorobenzaldehyde (3.35 g) and 3-benzyloxyphenol (4.23 g) and the solution was stirred for 3 hours while heated to 150° C. The reaction mixture was decanted into water and was extracted with ethyl acetate. The organic phase was sequentially washed with water and a saturated aqueous solution of sodium chloride and was dried with anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1). In this manner, the desired product (6.73 g) was obtained as a colorless powder.

reactant | Potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-fluorobenzaldehyde | 3.35 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | 3-benzyloxyphenol | 4.23 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 4-(3-benzyloxyphenoxy)-2-chlorobenzaldehyde | 6.73 g | C(C1=CC=CC=C1)OC=1C=C(OC2=CC(=C(C=O)C=C2)Cl)C=CC1 | C20H15ClO3
